US07439257B2
2.1 3-(2-hydroxyethyl)-1,3-oxazolidine-2,4-dione
A solution of 3 ml (39.6 mmol) of methyl glycolate in 25 ml of tetrahydrofuran is added dropwise over 2 hours to a solution of 49 ml (95 mmol) of phosgene, 1.9M in toluene, which is diluted in 50 ml of tetrahydrofuran and cooled using an ice bath. The mixture is subsequently stirred at ambient temperature for 16 hours and evaporated to dryness. Coevaporation is carried out 4 times with 30 ml of dichloromethane. The residue is taken up with 40 ml of acetonitrile and added dropwise over 1 hour to a solution of 3.4 ml (59.4 mmol) of ethanolamine and 30 ml (178 mmol) of diisopropylethylamine in a 50/10 mixture of acetonitrile and dichloromethane, cooled using an ice bath. The mixture is subsequently stirred at ambient temperature for 16 hours. It is filtered over celite and evaporated to dryness and the product is purified by chromatography on silica gel, eluting with a 70/30 then 80/20 mixture of ethyl acetate and n-hexane, to give 4.9 g of product in white solid form.

reactant | methyl glycolate | 39.6 mmol, 3 ml | C(CO)(=O)OC | C3H6O3
reactant | phosgene | 95 mmol, 49 ml | C(=O)(Cl)Cl | CCl2O
reactant | ethanolamine | 59.4 mmol, 3.4 ml | C(O)CN | C2H7NO
reactant | diisopropylethylamine | 178 mmol, 30 ml | C(C)(C)N(CC)C(C)C | C8H19N
solvent | tetrahydrofuran | 25 ml | O1CCCC1 | C4H8O
solvent | toluene | C1(=CC=CC=C1)C | C7H8
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
solvent | dichloromethane | ClCCl | CH2Cl2
solvent | acetonitrile | C(C)#N | C2H3N
product | 3-(2-hydroxyethyl)-1,3-oxazolidine-2,4-dione | 4.9 g | OCCN1C(OCC1=O)=O | C5H7NO4
